US05922717
4-[2-(Carboxy)-ethyl]-1-[(cyclohexyloxycarbonyl)-methyl]-pipe-ridine
The preparation is carried out analogously to Examples XLIIa to c. Instead of ethyl bromoacetate, cyclohexyl bromoacetate (boiling point: 102-104° C. under 16 mbar, prepared by reaction of bromoacetyl chloride with cyclohexanol in pyridine/ethyl acetate in the presence of a catalytic amount of 4-dimethylaminopyridine) is employed. Melting point: 85-88° C.

reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | cyclohexyl bromoacetate | BrCC(=O)OC1CCCCC1 | C8H13BrO2
reactant | bromoacetyl chloride | BrCC(=O)Cl | C2H2BrClO
reactant | cyclohexanol | C1(CCCCC1)O | C6H12O
reactant | pyridine ethyl acetate | N1=CC=CC=C1.C(C)(=O)OCC
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-[2-(Carboxy)-ethyl]-1-[(cyclohexyloxycarbonyl)-methyl]-pipe-ridine | C(=O)(O)CCC1CCN(CC1)CC(=O)OC1CCCCC1 | C16H27NO4
